US06355798B1
b) 6-Chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 3,6-dichloro-4-cyclobutylpyridazine from above (55.7 g, 0.27 mol), benzoic hydrazide (41.1 g, 0.30 mol) and triethylamine hydrochloride (41.5 g, 0.30 mol) in p-xylene (0.4 l) was stirred and heated at reflux under a stream of nitrogen for 24 hours. Upon cooling the volatiles were removed in vacuo. The residue was partitioned between dichloromethane and water. The aqueous was basified by the addition of solid potassium carbonate. Some dark insoluble material was removed by filtration at this stage. The aqueous phase was further extracted with dichloromethane (x2). The combined extracts were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography on silica gel eluting with 5%→10%→25% ethyl acetate/dichloromethane to give the title compound, (26.4 g, 34%) as an off-white solid. Data for the title compound: 1H NMR (360 MHz, CDCl3) δ 1.90-2.00 (1H, m), 2.12-2.28 (3H, m), 2.48-2.57 (2H, m), 3.69-3.78 (1H, m), 7.49-7.59 (3H, m), 7.97 (1H, s), 8.45-8.48 (2H, m); MS (ES+) m/e 285 [MH]+, 287 [MH]+.

reactant | 3,6-dichloro-4-cyclobutylpyridazine | ClC=1N=NC(=CC1C1CCC1)Cl | C8H8Cl2N2
reactant | benzoic hydrazide | 0.30 mol, 41.1 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | triethylamine hydrochloride | 0.30 mol, 41.5 g | Cl.C(C)N(CC)CC
solvent | p-xylene | 0.4 l | CC=1C=CC(=CC1)C | C8H10
product | 6-Chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | 26.4 g, 34% | ClC=1C(=CC=2N(N1)C(=NN2)C2=CC=CC=C2)C2CCC2 | C15H13ClN4
